US04168964
Preparation of 5-methyl-2-(α,α,α-trifluoro-m-tolyl)imidazole-4-carboxaldehyde.
A mixture of 5-methyl-2-(α,α,α-trifluoro-m-tolyl)-4-imidazolemethanol (30.0 g), manganese dioxide (200 g) and chloroform (1000 ml) is stirred at room temperature for 7 hours, and then filtered, and the solution allowed to stand over the weekend. Ethyl acetate is added to dissolve precipitated material and the solution is filtered. The solution is then evaporated to dryness in vacuo to afford 26.34 g solid, m.p. 179.5°-180° C.

reactant | 5-methyl-2-(α,α,α-trifluoro-m-tolyl)-4-imidazolemethanol | 30.0 g | CC1=C(N=C(N1)C=1C=C(C=CC1)C(F)(F)F)CO | C12H11F3N2O
catalyst | manganese dioxide | 200 g | [O-2].[O-2].[Mn+4]
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-methyl-2-(α,α,α-trifluoro-m-tolyl)imidazole-4-carboxaldehyde | 26.34 g | CC1=C(N=C(N1)C=1C=C(C=CC1)C(F)(F)F)C=O | C12H9F3N2O
